US07863302B2
2-(4-Chloro-2-nitro-phenyl)-3-hydroxy-but-2-enoic acid methyl ester
A mixture of sodium hydride (60% in mineral oil, 2.60 g, 65.0 mmol) and DMF (52 mL) is stirred in an ice bath and methylacetoacetate (6.46 mL, 59.9 mmol) is added via a syringe over 10 minutes. The mixture is stirred for an additional 10 minutes and the ice bath is removed. The solution is stirred at ambient temperature for 30 minutes and transferred via cannula into a flask containing 4-chloro-1-fluoro-2-nitrobenzene (5.00 g, 28.5 mmol) cooled to 0° C. via an ice bath. The reaction is allowed to warm slowly and is stirred for two days at room temperature. The black mixture is acidified with 2 N HCl, turning it yellow. The resulting solution is diluted with water and extracted with ether. The combined ether layers are washed with water and brine and dried over MgSO4 to give the crude title compound (8.26 g), which contains a small amount of mineral oil. The material is used without purification in the next step.

reactant | sodium hydride | 65.0 mmol, 2.60 g | [H-].[Na+]
reactant | methylacetoacetate | 59.9 mmol, 6.46 mL | COC(CC(=O)C)=O | C5H8O3
reactant | 4-chloro-1-fluoro-2-nitrobenzene | 28.5 mmol, 5.00 g | ClC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | HCl | 2 N | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 52 mL | CN(C)C=O | C3H7NO
product | 2-(4-Chloro-2-nitro-phenyl)-3-hydroxy-but-2-enoic acid methyl ester | 8.26 g | COC(C(=C(C)O)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C11H10ClNO5
